US08735378B2
To a solution of tert-butyl 2-hydroxypropylcarbamate (14.3 g, 81.7 mmol) and Et3N (35.6 ml, 245.1 mmol) in CH2Cl2 (250 mL) at 0° C. was slowly added a solution of methanesulfonyl chloride (9.5 mL, 122.6 mmol) in CH2Cl2 (250 mL). The mixture was stirred at 0° C. for 2 h, diluted with CH2Cl2 (300 mL) and washed with water, 1 N HCl, 5% NaHCO3 and brine. The organic layer was dried over MgSO4 and concentrated under reduced pressure to afford 1-(tert-butoxycarbonylamino)propan-2-yl methanesulfonate (19.5 g, 94%) as a light yellow oil. Mass calculated for C9H19NO5S=253.32. found: [M+H]+=254.2.

reactant | tert-butyl 2-hydroxypropylcarbamate | 81.7 mmol, 14.3 g | OC(CNC(OC(C)(C)C)=O)C | C8H17NO3
reactant | Et3N | 245.1 mmol, 35.6 ml | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 122.6 mmol, 9.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-butoxycarbonylamino)propan-2-yl methanesulfonate | 19.5 g, 94% | CS(=O)(=O)OC(CNC(=O)OC(C)(C)C)C | C9H19NO5S
